US06573263B2
Analogously to Example 1, 3.08 g (6.07 mmol) of 2-acetyl-N-{1-[3-(3,4-dimethoxybenzyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]ethyl}-2-methyl-5-phenylpentanamide and 4.44 mg (29.0 mmol) of phosphorus oxychloride are reacted to give 7-(1-acetyl-1-methyl-4-phenylbutyl)-2-(3,4-dimethoxybenzyl)-5-methylimidazo[5,1-f][1,2,4]-triazin-4(3H)-one.

reactant | 2-acetyl-N-{1-[3-(3,4-dimethoxybenzyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]ethyl}-2-methyl-5-phenylpentanamide | 6.07 mmol, 3.08 g | C(C)(=O)C(C(=O)NC(C)C=1C(NC(=NN1)CC1=CC(=C(C=C1)OC)OC)=O)(CCCC1=CC=CC=C1)C | C28H34N4O5
reactant | phosphorus oxychloride | 29.0 mmol, 4.44 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-(1-acetyl-1-methyl-4-phenylbutyl)-2-(3,4-dimethoxybenzyl)-5-methylimidazo[5,1-f][1,2,4]-triazin-4(3H)-one | C(C)(=O)C(CCCC1=CC=CC=C1)(C)C1=NC(=C2C(NC(=NN21)CC2=CC(=C(C=C2)OC)OC)=O)C | C28H32N4O4
